US04762881
A peptide with the sequence LeuLysBpaLysLysLeuLeuLysLeuLeuLysLysLeuLeuLysLeuGly, (Peptide II) was synthesized by the Merrifield method which is described in G. Barany and R. B. Merrifield. The Peptides: Analysis, Synthesis, Biology (Gross and Meienhofer, eds), Vol. 2, pp. 1-284 (1980) using the protecting groups and synthetic protocol described for peptide I (W. F. DeGrado et al., J. Cell. Biochem., 29, 83-93 (1985). The Bpa residue was incorporated using a 3-fold excess of the corresponding BOC-protected symmetric anhydride formed by reaction of 6 eq of BOC-L-Bpa with 3 eq of diisopropylcarbodiimide in CH2Cl2 /N,N-dimethylformamide (1/1) for 15 min at 0°. This was allowed to react with the resin and the coupling reaction was complete within 4 h as determined by the ninhydrin test. The peptide was cleaved from the resin by reaction with HF/p-cresol (10:1) at 0° for 60 min. The crude product was purified in a single step by reversed-phase HPLC using a Hamilton PRP-1 semipreparative column (purchased from Pierce), and a gradient of 35-41% aqueous acetonitrile containing 0.1% trifluoroacetic acid, at 0.33%/min and flow rate of 4.0 ml/min. Fractions containing pure peptide were pooled and lyophilized giving chromatographically homogeneous peptide in 19% overall yield based on the loading of the first amino acid on the resin.

reactant | peptide I | CC[C@H](C)[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CS)C(=O)NCC(=O)NCC(=O)N[C@@H](CC(=O)N)C(=O)O)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CCC(=O)O)NC(=O)[C@H](CC1=CC=C(C=C1)O)NC(=O)[C@H](CC(=O)O)NC(=O)CNC(=O)[C@H](CCCCN)N | C69H114N18O22S
solvent | CH2Cl2 N,N-dimethylformamide | C(Cl)Cl.CN(C=O)C
product | diisopropylcarbodiimide | 3 eq | C(C)(C)N=C=NC(C)C | C7H14N2
